### PR TITLE
[Merged by Bors] - feat(NumberTheory/Primorial): expand API for primorial

### PR DESCRIPTION
**Pull request by b-mehta**
This PR adds some simple API lemmas for the primorial, moves `le_primorial_self` and simplifies the proof to not need Bertrand, along with an `lt_primorial_self` version. We also provide an `lt` version of the primorial upper bound.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Parcly-Taxel — APPROVED** [review]

**Review by tb65536 — APPROVED** [review]
maintainer merge

File: Mathlib/NumberTheory/Primorial.lean [hunk 1]
```diff
@@ -63,22 +75,53 @@ theorem primorial_add_dvd {m n : ℕ} (h : n ≤ m) : (m + n)# ∣ m# * choose (
...
 
-theorem primorial_le_4_pow (n : ℕ) : n# ≤ 4 ^ n := by
+lemma Nat.Prime.dvd_primorial_iff {p n : ℕ} (hp : Nat.Prime p) : p ∣ n# ↔ p ≤ n := by
+  refine ⟨?_, fun h ↦ dvd_prod_of_mem _ (by grind)⟩
+  intro h
+  simp only [primorial, hp.prime.dvd_finset_prod_iff, mem_filter, mem_range_succ_iff] at h
+  obtain ⟨q, ⟨hqn, hq⟩, hpq⟩ := h
+  exact (Nat.le_of_dvd hq.pos hpq).trans hqn
+
+lemma Nat.Prime.dvd_primorial {p : ℕ} (hp : Nat.Prime p) : p ∣ p# :=
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Primorial.lean]: Can you generalize this to squarefree numbers if it is not too much work?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/Primorial.lean [hunk 2]
```diff
@@ -37,9 +37,21 @@ def primorial (n : ℕ) : ℕ := ∏ p ∈ range (n + 1) with p.Prime, p
...
+@[simp] theorem primorial_zero : 0 # = 1 := by decide
+
+@[simp] theorem primorial_one : 1 # = 1 := by decide
+
+@[simp] theorem primorial_two : 2 # = 2 := by decide
+
 theorem primorial_pos (n : ℕ) : 0 < n# :=
   prod_pos fun _p hp ↦ (mem_filter.1 hp).2.pos
 
+theorem primorial_mono {m n : ℕ} (h : m ≤ n) : m# ≤ n# :=
```
Comment (Parcly-Taxel) [inline Mathlib/NumberTheory/Primorial.lean:52]: Actually, this should be stated as `Monotone primorial` rather than using explicit numbers.

```suggestion
theorem monotone_primorial : Monotone primorial := fun m n h ↦
```

Comment (b-mehta) [reply Mathlib/NumberTheory/Primorial.lean:52]: The usual mathlib pattern is to have both, actually. But you're right that the version with `Monotone` should be provided, I'll add that, nice catch!

File: Mathlib/NumberTheory/Primorial.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/NumberTheory/Primorial.lean]: I have added this. I think it might increase the imports but it's a short proof. I believe the import increase is okay, but let me wait for CI to confirm just how much it is.

Comment (b-mehta) [reply Mathlib/NumberTheory/Primorial.lean]: Hmm, 10% but it's for something only imported twice. I think it makes sense for primorial, bertrand, and chebyshev to import Algebra/Squarefree and privately import Nat/Squarefree
